US09315521B2
To a solution of [6-(4-ethylpiperazin-1-yl)pyridin-3-yl]methanol (3.0 g, 13.55 mmol) in anhydrous chloroform was added at 0° C. tribromophosphane (4.03 g, 14.91 mmol). The reaction mixture was allowed to stir at room temperature for 3 hours. The solvent was evaporated to provide 1-[5-(bromomethyl)pyridin-2-yl]-4-ethylpiperazine (3.85 g), which was used in the next step without any further purification.

reactant | [6-(4-ethylpiperazin-1-yl)pyridin-3-yl]methanol | 13.55 mmol, 3.0 g | C(C)N1CCN(CC1)C1=CC=C(C=N1)CO | C12H19N3O
reactant | tribromophosphane | 14.91 mmol, 4.03 g | BrP(Br)Br | Br3P
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-[5-(bromomethyl)pyridin-2-yl]-4-ethylpiperazine | 3.85 g | BrCC=1C=CC(=NC1)N1CCN(CC1)CC | C12H18BrN3
